US06586475B1
4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide
A solution of methyl 4-(4-biphenylylmethoxy)phenylacetate (60.0 g), N,N-dimethylethylenediamine (47.7 g), and 1H-1,2,4-triazole (12.6 g) in toluene (120 ml) was stirred under nitrogen at 100° C. for 8 hr and cooled until the temperature of the reaction mixture was reached to 60±2° C., to which ethyl acetate (240 ml) was added for 20 min. The reaction mixture was further heated under reflux for additional 30 min, left to stand at room temperature over night and stirred in an ice bath for 2 hr. The precipitate was collected by filtration and washed with ethyl acetate (120 ml) to obtain the titled compound (71.7 g).

reactant | methyl 4-(4-biphenylylmethoxy)phenylacetate | 60.0 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C22H20O3
reactant | N,N-dimethylethylenediamine | 47.7 g | CN(CCN)C | C4H12N2
reactant | 1H-1,2,4-triazole | 12.6 g | N1N=CN=C1 | C2H3N3
reactant | ethyl acetate | 240 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Biphenylylmethoxy)phenyl-N-[2-(N,N-dimethylamino)ethyl]acetamide | 71.7 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C)C)C1=CC=CC=C1 | C25H28N2O2
